US06977261B2
4-[7-(3-Imidazol-1-ylprop-1-ynyl)-1-oxo-1H-5-azaisoquinolin-2-ylmethyl]benzoic acid tert-butyl ester
The coupling of 4-(7-bromo-1-oxo-1H-5-azaisoquinolin-2-ylmethyl)benzoic acid tert-butyl ester (0.80 g, 1.93 mmol) with 4-prop-2-ynyl-4H-triazole (0.41 g, 3.86 mmol) using triethylamine (1.08 mL, 7.22 mmol), CuI (0.026 g, 0.14 mmol), and Pd(Ph3P)4 (0.15 g, 0.13 mmol) in dimethyl-formamide is carried out as described in Example 1, Step (2). Purification on a silica gel column eluted with hexane/ethyl acetate 2:1, ethyl acetate, and methylene chloride/THF 4:1, followed by drying, will afford the desired product.

reactant | 4-(7-bromo-1-oxo-1H-5-azaisoquinolin-2-ylmethyl)benzoic acid tert-butyl ester | 1.93 mmol, 0.80 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C(C2=CC(=CN=C2C=C1)Br)=O)=O | C20H19BrN2O3
reactant | 4-prop-2-ynyl-4H-triazole | 3.86 mmol, 0.41 g | C(C#C)C1N=NN=C1 | C5H5N3
reactant | triethylamine | 7.22 mmol, 1.08 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl-formamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.14 mmol, 0.026 g | [Cu]I
catalyst | Pd(Ph3P)4 | 0.13 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[7-(3-Imidazol-1-ylprop-1-ynyl)-1-oxo-1H-5-azaisoquinolin-2-ylmethyl]benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C(C2=CC(=CN=C2C=C1)C#CCN1C=NC=C1)=O)=O | C26H24N4O3
